US06235771B1
To a solution of 7-bromo-3,4-dihydro-1-benzoxepin-5(2H)-one (20.0 g) in trifluoroacetic acid (32 ml) was added at room temperature triethylsilane (29.2 ml), and the mixture was stirred for 2 hours and concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was distilled under reduced pressure (0.8 mmHg/123° C.) to give colorless oil. The obtained oil (13.12 g) was dissolved in ethanol (200 ml), and to the solution was added platinum oxide (0.4 g). The mixture was stirred under hydrogen atmosphere for 24 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane→ethyl acetate/hexane=1:19) to give colorless oil of 7-bromo-2,3,4,5-tetrahydro-1-benzoxepine (9.61 g).

reactant | 7-bromo-3,4-dihydro-1-benzoxepin-5(2H)-one | 20.0 g | BrC=1C=CC2=C(C(CCCO2)=O)C1 | C10H9BrO2
reactant | triethylsilane | 29.2 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 32 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | 7-bromo-2,3,4,5-tetrahydro-1-benzoxepine | 9.61 g | BrC=1C=CC2=C(CCCCO2)C1 | C10H11BrO
